US08278302B2
3-({1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carbonyl}-amino)-5-(1-methyl-1H-tetrazol-5-yl)-benzoic acid
To a solution of 3-({1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carbonyl}-amino)-5-(1-methyl-1H-tetrazol-5-yl)-benzoic acid methyl ester (270 mg) in MeOH (10 ml) at room temperature was added 4M NaOH(aq) (10 ml) and the reaction stirred overnight. The organic and aqueous layers were separated and the organic layer concentrated in vacuum. The residue was triturated in toluene and diethyl ether successively leaving the title compound (220 mg). Rt=0.96 min (method E).

reactant | 3-({1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carbonyl}-amino)-5-(1-methyl-1H-tetrazol-5-yl)-benzoic acid methyl ester | 270 mg | COC(C1=CC(=CC(=C1)C1=NN=NN1C)NC(=O)C1N(C(CC1)=O)C1CCN(CC1)CC1=CC(=C(C=C1)Cl)C)=O | C28H32ClN7O4
reactant | NaOH | 4M, 10 ml | [OH-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | 3-({1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carbonyl}-amino)-5-(1-methyl-1H-tetrazol-5-yl)-benzoic acid | 220 mg | ClC1=C(C=C(CN2CCC(CC2)N2C(CCC2=O)C(=O)NC=2C=C(C(=O)O)C=C(C2)C2=NN=NN2C)C=C1)C | C27H30ClN7O4
